US06313122B1
Preparation of N1-(4-Methoxybenzoyl)-N2-(5-chlorobenzofuran-2-ylcarbonyl)-1,2-benzenediamine
To a solution of N1-(4-methoxybenzoyl)-1,2-benzenediamine (200 mg, 0.826 mmol) in methylene chloride (5 mL) was added 5-chlorobenzofuran-2-carboxylic acid (162 mg, 0.826 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (316 mg, 1.65 mmol), and 4-dimethylaminopyridine (10 mg, 0.083 mmol). The resulting solution was stirred at room temperature for 6 h. The resulting precipitate was collected via vacuum filtration to provide 209 mg (60%) of the title compound as an amorphous off-white solid.

reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine | 0.826 mmol, 200 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
reactant | 5-chlorobenzofuran-2-carboxylic acid | 0.826 mmol, 162 mg | ClC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5ClO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.65 mmol, 316 mg | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.083 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N1-(4-Methoxybenzoyl)-N2-(5-chlorobenzofuran-2-ylcarbonyl)-1,2-benzenediamine | 209 mg, 60% | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C=2OC3=C(C2)C=C(C=C3)Cl)C=C1 | C23H17ClN2O4
